US07943636B2
A solution of ethyl chlorooxoacetate (22.53 g, 0.165 mol) in diethyl ether (100 mL) was added over a period of 15 minutes to a cooled (0° C.) solution of 2-methylindole (19.7 g, 0.15 mol) and pyridine (14.2 g, 0.18 mol) in diethyl ether (200 mL). The reaction was stirred for two hours at 0° C. under a nitrogen atmosphere. Most of the diethyl ether had evaporated by the end of the two-hour reaction time, and a solid was present. Water (100 mL) was added, and the solid was isolated by filtration and washed with 1:1 diethyl ether/hexane. The solid (27.9 g) was then dissolved in boiling toluene (250 mL) and recrystallized upon cooling to 6° C. The crystals were isolated by filtration, washed with toluene, dried for two hours on the vacuum filter funnel, triturated with water at 75° C. for five minutes, isolated by filtration, and dried for three hours on the filter funnel to provide 17.8 g ethyl (2-methyl-1H-indol-3-yl)(oxo)acetate of as a rust-colored powder.

reactant | ethyl chlorooxoacetate | 0.165 mol, 22.53 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 2-methylindole | 0.15 mol, 19.7 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | pyridine | 0.18 mol, 14.2 g | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | ethyl (2-methyl-1H-indol-3-yl)(oxo)acetate | 17.8 g | CC=1NC2=CC=CC=C2C1C(C(=O)OCC)=O | C13H13NO3
